US04795755
To a solution of sodium hydroxide (0.4 g.) in water (5 ml.) was added 3-chloropropan-1-ol (0.83 ml.) and 3-methyl-5-mercapto-1,2,4-triazole (1.1 g.) and the mixture was heated at 100° for 1.5 hours. The solvent was evaporated and the residue was extracted twice with EtOAc/EtOH 50:50 v/v (20 ml.). The extracts were combined and evaporated to dryness. The residual solid was recrystallised from EtOAc to give 3-methyl-5-(3-hydroxypropylthio)-1,2,4-triazole (0.4 g.) which was used without further purification.

reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | 3-chloropropan-1-ol | 0.83 ml | ClCCCO | C3H7ClO
reactant | 3-methyl-5-mercapto-1,2,4-triazole | 1.1 g | CC1=NNC(=N1)S | C3H5N3S
solvent | water | 5 ml | O | H2O
product | 3-methyl-5-(3-hydroxypropylthio)-1,2,4-triazole | 0.4 g | CC1=NNC(=N1)SCCCO | C6H11N3OS
